US07141596B2
Step 5. {(S)-2-[4-(2-tert-Butyl-1,1,3-trioxo-1λ6-isothiazolidin-5-yl)-phenyl]-1-carbamoyl-ethyl}-carbamic acid benzyl ester
A solution of (S)-2-amino-3-[4-(2-tert-butyl-1,1,3-trioxo-1λ6-isothiazolidin-5-yl)-phenyl]-propionamide trifluoroacetate (600 mg, 1.5 mmol) and N,N-diisopropylethylamine (540 μL, 3.1 mmol) in tetrahydrofuran (7.6 mL) was cooled to 0° C. and treated with benzyl chloroformate (250 μL, 1.7 mmol). The reaction mixture was stirred for 2 h, diluted with water (20 mL), and extracted with ethyl acetate (60 mL). The organic layer was dried with Na2SO4, filtered, and concentrated to give a solid which was purified using flash column chromatography (10% methanol/dichloromethane) to yield the desired product (720 mg, 96%). LCMS found for C24H30N3O6S (M+H)+: m/z=488.

reactant | (S)-2-amino-3-[4-(2-tert-butyl-1,1,3-trioxo-1λ6-isothiazolidin-5-yl)-phenyl]-propionamide trifluoroacetate | 1.5 mmol, 600 mg | FC(C(=O)O)(F)F.N[C@H](C(=O)N)CC1=CC=C(C=C1)C1CC(N(S1(=O)=O)C(C)(C)C)=O
reactant | N,N-diisopropylethylamine | 3.1 mmol, 540 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl chloroformate | 1.7 mmol, 250 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 7.6 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | {(S)-2-[4-(2-tert-Butyl-1,1,3-trioxo-1λ6-isothiazolidin-5-yl)-phenyl]-1-carbamoyl-ethyl}-carbamic acid benzyl ester | 720 mg, 96% | C(C1=CC=CC=C1)OC(N[C@@H](CC1=CC=C(C=C1)C1CC(N(S1(=O)=O)C(C)(C)C)=O)C(N)=O)=O | C24H29N3O6S
